US08183240B2
Step 8: 4-(2,4-dichlorophenyl)-2-(3,6-dihydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile
A mixture of 4-(2,4-dichlorophenyl)-2-iodo-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile (180 mg, 0.4 mmol), tributyl(3,6-dihydro-2H-pyran-4-yl)stannane (0.452 g, 1.2 mmol), lithium chloride (51.2 mg, 1.2 mmol), copper(I) iodide (7.6 mg, 0.04 mmol), tetrakis(triphenylphosphine)palladium (46.4 mg, 0.04 mmol) was dissolved in dioxane (20 mL) and heated to reflux for 3 hours under an atmosphere of argon. The solvent was removed and the residue was purified using ISCO chromatography on silica gel, elution 20% ethyl acetate in hexanes to ethyl acetate to afford the title compound (24 mg, 14%). LCMS: (FA) ES+, 403. 1H NMR (400 MHz, d4-methanol) δ: 8.35 (s, 1H), 7.59 (d, 1H), 7.43-7.36 (m, 2H), 6.72 (dd, 1H), 4.38-4.36 (m, 2H), 3.97-3.94 (m, 2H), 2.71-2.68 (m, 2H).

reactant | 4-(2,4-dichlorophenyl)-2-iodo-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile | 0.4 mmol, 180 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=CN1)I)C#N | C13H5Cl2IN4S
reactant | tributyl(3,6-dihydro-2H-pyran-4-yl)stannane | 1.2 mmol, 0.452 g | C(CCC)[Sn](C=1CCOCC1)(CCCC)CCCC
reactant | lithium chloride | 1.2 mmol, 51.2 mg | [Cl-].[Li+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 0.04 mmol, 7.6 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 46.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2,4-dichlorophenyl)-2-(3,6-dihydro-2H-pyran-4-yl)-5-(4H-1,2,4-triazol-3-yl)thiophene-3-carbonitrile | 24 mg, 14% | ClC1=C(C=CC(=C1)Cl)C=1C(=C(SC1C1=NN=CN1)C=1CCOCC1)C#N | C18H12Cl2N4OS
